US04246268
To a stirred suspension of 3.15 g (19.4 mmoles) of 2-chloronaphthalene and 4.46 g (24.2 mmoles) of 4-piperidinecarbonyl chloride hydrochloride in 60 ml nitrobenzene is added gradually 9.7 g (73 mmoles) of aluminum chloride. The mixture is heated to 65°-70° C. for 2 hours and cooled. Ice water and concentrated HCl are added to the reaction mixture. The solid precipitate is partitioned between aqueous sodium hydroxide solution and ether and the organic phase washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue is recrystallized from cyclohexane to yield 6-chloro-2-naphthyl 4-piperidyl ketone. M.P. 98°-100°-5°.

reactant | 2-chloronaphthalene | 19.4 mmoles, 3.15 g | ClC1=CC2=CC=CC=C2C=C1 | C10H7Cl
reactant | 4-piperidinecarbonyl chloride hydrochloride | 24.2 mmoles, 4.46 g | Cl.N1CCC(CC1)C(=O)Cl
reactant | aluminum chloride | 73 mmoles, 9.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | nitrobenzene | 60 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 6-chloro-2-naphthyl 4-piperidyl ketone | N1CCC(CC1)C(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C16H16ClNO
